* Schematics Netlist *



R_R2         0 $N_0001  10k  
V_V1         $N_0002 0 DC 0 AC 0
+SIN 0 10 50 0 0 0
R_R3         $N_0002 $N_0001  1  
V_V3         0 $N_0003 3
V_V2         $N_0004 0 5
D_D2         $N_0003 $N_0001 D1N4002 
D_D1         $N_0001 $N_0004 D1N4002 
